US05126482
In 120 ml of ether was dissolved 10 g (39 mmol) of (R)-2-fluoro-2-(trifluoromethyl)-4-decenoic acid, and 3 g of activated carbon having 5% palladium supported thereon was added to the above-obtained solution. The resulting mixture was vigorously stirred under an atmospheric-pressure hydrogen atmosphere for 96 hours. Subsequently, the reaction mixture was filtered through Celite, and the solvent was removed under reduced pressure, thereby obtaining 8.5 g of (R)-(+)-2-fluoro-2-(trifluoromethyl)decanoic acid having the physical properties as mentioned hereinbefore, in a yield of 85%.

reactant | (R)-2-fluoro-2-(trifluoromethyl)-4-decenoic acid | 39 mmol, 10 g | F[C@@](C(=O)O)(CC=CCCCCC)C(F)(F)F | C11H16F4O2
reactant | hydrogen | [H][H] | H2
solvent | ether | 120 ml | CCOCC | C4H10O
product | (R)-(+)-2-fluoro-2-(trifluoromethyl)decanoic acid | 8.5 g, yield of 85% | F[C@@](C(=O)O)(CCCCCCCC)C(F)(F)F | C11H18F4O2
